US05811439
The same procedures used in Example 1 were repeated except for using 870 mg of indole-4-carbaldehyde and benzhydryl chloride instead of the benzyl bromide used in Example 1 to give 1.14 g of 1-benzhydrylindole-4-carbaldehyde as an orange-colored oily substance. The yield thereof was found to be 61%.

reactant | indole-4-carbaldehyde | 870 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | benzhydryl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
product | 1-benzhydrylindole-4-carbaldehyde | 1.14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC=2C(=CC=CC12)C=O | C22H17NO
